US04968697
A mixture of 5 g of p-bromophenylacetonitrile, 4.6 ml of t-butyl acrylate, 57 mg of palladium diacetate, 310 mg of tri-o-tolylphosphine and 12 ml of triethylamine is refluxed for 5 hours. The reaction mixture is diluted with ethyl acetate and washed with 10% HCl and saturated sodium bicarbonate solution. After drying over magnesium sulfate the solvent is removed in vacuo to yield t-butyl p-(cyanomethyl)-phenylacrylate. This material is dissolved in ethanol and hydrogenated over 1.1 g of 10% palladium on carbon catalyst for 3 days at 3 atmospheres pressure of hydrogen. After filtration the solvent is removed in vacuo and the residue is chromatagraphed on silica gel with ether/hexane (1:1) as the eluent to afford p-(2-t-butoxycarbonyl-ethyl)-phenyl-acetonitrile; 2.8 g of this material is dissolved in 90 ml of tetrahydrofuran and 50 ml of methanol and to this is added 6.2 g of cobalt chloride in 90 ml of water followed by 2.1 g of sodium borohydride in small portions. After filtration and removal of solvent, the residue is chromatagraphed on silica gel with 7.5% ammonia saturated methanol in methylene chloride as the eluent to afford p-(2-t-butoxy-carbonyl-ethyl)-2-phenethylamine as an oil.

reactant | p-bromophenylacetonitrile | 5 g | BrC1=CC=C(C=C1)CC#N | C8H6BrN
reactant | t-butyl acrylate | 4.6 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | tri-o-tolylphosphine | 310 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium diacetate | 57 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | t-butyl p-(cyanomethyl)-phenylacrylate | C(#N)CC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)=C | C15H17NO2
